.include TSMC_180nm.txt
.param LAMBDA=0.09u
.param width_N={20*LAMBDA}
.param width_P = 2.5*width_N
.global gnd vdd
.PARAM VDD_val = 1.8

V_D D gnd PULSE(0 1.8 5n 0 0 7.5n 15n)
VDD vdd gnd 1.8
V_Clock clk gnd PULSE(0 1.8 2n 0 0 4n 8n)

*  D G S B
M3 vdd  D R vdd     CMOSP W={2*width_P}   L={2*LAMBDA}
+ AS={5*2*width_P*LAMBDA} PS={10*LAMBDA+2*2*width_P} AD={5*2*width_P*LAMBDA} PD={10*LAMBDA+2*2*width_P}

M2 R clk X vdd      CMOSP W={2*width_P}   L={2*LAMBDA}
+ AS={5*2*width_P*LAMBDA} PS={10*LAMBDA+2*2*width_P} AD={5*2*width_P*LAMBDA} PD={10*LAMBDA+2*2*width_P}

M1 X D gnd gnd    CMOSN  W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}


M6 vdd clk Y1 vdd    CMOSP W={2*width_P}   L={2*LAMBDA}
+ AS={5*2*width_P*LAMBDA} PS={10*LAMBDA+2*2*width_P} AD={5*2*width_P*LAMBDA} PD={10*LAMBDA+2*2*width_P}

M10 Y1 X Y vdd CMOSP W={2*width_P}   L={2*LAMBDA}
+ AS={5*2*width_P*LAMBDA} PS={10*LAMBDA+2*2*width_P} AD={5*2*width_P*LAMBDA} PD={10*LAMBDA+2*2*width_P}

M5 Y X Z gnd        CMOSN  W={2*width_N}   L={2*LAMBDA}
+ AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}

M4 Z clk gnd gnd  CMOSN  W={2*width_N}   L={2*LAMBDA}
+ AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}


M9 vdd Y Q_bar vdd CMOSP W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

M8 Q_bar clk P gnd  CMOSN  W={2*width_N}   L={2*LAMBDA}
+ AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}

M7 P Y gnd gnd    CMOSN  W={2*width_N}   L={2*LAMBDA}
+ AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}

Mn_inv      Q       Q_bar       gnd    gnd  CMOSN   W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
Mp_inv      Q       Q_bar       vdd    vdd  CMOSP   W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

.ic V(X)=0 V(Y)=0 V(P)=0 V(Q)=0 V(Q_bar)=1

.tran 10p 50n
.control
set hcopypscolor = 1 *White background for saving plots
set color0=white ** color0 is used to set the background of the plot (manual sec:17.7))
set color1=black ** color1 is used to set the grid color of the plot (manual sec:17.7))

run
set curplottitle="2024102070 TSPC D-Flip Flop"
 
plot V(clk)+4 V(D)+2 V(Q)

let half_vdd = 0.9

meas tran t_clk_rise_edge WHEN V(clk)=half_vdd RISE=2
meas tran t_q_rise_out WHEN V(Q)=half_vdd RISE=1 
let t_prop_rise = t_q_rise_out - t_clk_rise_edge
print t_prop_rise

meas tran t_clk_fall_edge WHEN V(clk)=half_vdd RISE=3
meas tran t_q_fall_out WHEN V(Q)=half_vdd FALL=1 
let t_prop_fall = t_q_fall_out - t_clk_fall_edge
print t_prop_fall
let t_PCQ = (t_prop_fall + t_prop_rise)/2
print t_PCQ


.endc
